US07307075B2
1-[3-(4-Allyloxypiperidin-1-yl)propyl]-1H-quinolin-2-one (107LH85)
A 4 mL vial was charged with 1-(3-chloropropyl)-1H-quinolin-2-one (0.130 g, 0.6 mmol), NaI (0.225 g, 1.5 mmol), K2CO3 (0.210 g, 1.5 mmol), 4-allyloxypiperidine (0.085 g, 0.60 mmol) and dry CH3CN (1 mL). The mixture was shaken at 40° C. for 72 h and then poured onto The compound EtOAc (25 mL) and water (15 mL). The water phase was extracted (2×25 mL) and the combined organic phases were dried over Na2SO4, and concentrated under reduced pressure. The residue was purified by flash CC (SiO2; EtOAc/MeOH 4:1) followed by cation-exchange CC to yield the title compound (0.140 g, 70%). 1H NMR (CD3OD) δ 7.81 (d, J=9.6 Hz, 1H), 7.64-7.55 (m, 3H), 7.27-7.21 (m, 1H), 6.61 (d, J=9.6 Hz, 1H), 5.93-5.82 (m, 1H), 5.27-5.20 (m, 1H), 5.13-5.07 (m, 1H), 4.33-4.26 (m, 2H), 3.40-3.28 (m, 2H), 2.76-2.67 (m, 2H), 2.47-2.39 (m, 2H), 2.18-2.08 (m, 1H), 1.93-1.80 (m, 4H), 1.61-1.50 (m, 2H); 13C NMR (CD3OD) δ 162.9, 140.3, 139.0, 135.5, 131.1, 129.2, 122.6, 121.3, 120.4, 115.5, 114.7, 74.2, 68.7, 55.3, 51.0, 40.6, 30.9, 24.9.

reactant | 1-(3-chloropropyl)-1H-quinolin-2-one | 0.6 mmol, 0.130 g | ClCCCN1C(C=CC2=CC=CC=C12)=O | C12H12ClNO
reactant | NaI | 1.5 mmol, 0.225 g | [Na+].[I-]
reactant | K2CO3 | 1.5 mmol, 0.210 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-allyloxypiperidine | 0.60 mmol, 0.085 g | C(C=C)OC1CCNCC1 | C8H15NO
solvent | water | 15 mL | O | H2O
solvent | EtOAc | 25 mL | CCOC(=O)C | C4H8O2
solvent | CH3CN | 1 mL | CC#N | C2H3N
product | 1-[3-(4-Allyloxypiperidin-1-yl)propyl]-1H-quinolin-2-one | 0.140 g, 70% | C(C=C)OC1CCN(CC1)CCCN1C(C=CC2=CC=CC=C12)=O | C20H26N2O2
